US07253286B2
5-[(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidenemethyl) amino] furan-2-carboxylic acid methyl ester
Methyl 5-amino-2-furoate (4 g) by Lancaster was added to a mixed solution of triethyl orthoformate (20 ml) and isopropyl alcohol (20 ml), and then Meldrum acid (4.5 g) was added and the mixture was heated and stirred at 100° C. for 1 hour. After cooling, the precipitated crystals were filtered out and washed with isopropyl alcohol to obtain the title compound (7.8 g).

reactant | Methyl 5-amino-2-furoate | 4 g | NC1=CC=C(O1)C(=O)OC | C6H7NO3
reactant | triethyl orthoformate | 20 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | Meldrum acid | 4.5 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | 5-[(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidenemethyl) amino] furan-2-carboxylic acid methyl ester | 7.8 g | COC(=O)C=1OC(=CC1)NC=C1C(OC(OC1=O)(C)C)=O | C13H13NO7
